US04282246
5-(3-Trifluoromethylphenylthio)furan-3-carboxylic Acid
By the procedure of Example 13, m-trifluoromethylthiophenol (5.59 g., 31.4 mmoles) was reacted with 5-bromofuran-3-carboxylic acid. Isolation according to Example 16 gave crude product (1.0 g.) as a gummy solid. The latter was chromatographed on silica gel with ethyl acetate-1/hexane-5/5% acetic acid as eluant. Clean middle fractions were combined and evaporated to solid product (550 mg.). Recrystallization from hexane gave purified 5-(3-trifluoromethylphenylthio)furan-3-carboxylic acid (310 mg., m.p. 99°-101° C., m/e 288).

reactant | m-trifluoromethylthiophenol | 31.4 mmoles, 5.59 g | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
product | 5-(3-Trifluoromethylphenylthio)furan-3-carboxylic Acid | 1.0 g | FC(C=1C=C(C=CC1)SC1=CC(=CO1)C(=O)O)(F)F | C12H7F3O3S
